US06017919
1-(2-Methoxy-5-methylphenyl)heptan-1-one (81.6 g, 0.348 mol), ethyl chloroacetate (64 g, 0.522 mol) and benzene (100 ml) were mixed, and this solution was cooled to 0° C. Potassium t-butoxide (58.6 g, 0.522 mol) was added, and the mixture was stirred at room temperature for 0.5 hour. This solution was cooled again to 0° C. Then ethyl chloroacetate (32 g, 0.261 mol) and potassium t-butoxide (29.3 g, 0.261 mol) were added, and the mixture was stirred at room temperature for 0.5 hour. The reaction mixture was poured onto ice (200 g) to stop the reaction and the aqueous layer was extracted 3 times with toluene (120 ml). The organic layer was washed successively with water, an aqueous acetic acid solution (water/acetic acid=50/1) and water (100 ml each), and dried over anhydrous magnesium sulfate. The drying agent was filtered off, and the filtrate was concentrated under reduced pressure. To the obtained residue were added ethanol (90 ml) and sodium ethoxide previously prepared from sodium (13.1 g, 0.567 mol) and ethanol (260 ml), and the mixture was stirred at room temperature for 1.5 hours. Water (17 ml) was added to the reaction mixture, and the mixture was stirred for 0.5 hour. Ethanol was evaporated under reduced pressure. To this residue, water (350 ml) and conc. hydrochloric acid (63 ml) were added, and the mixture was refluxed under heating for 1.5 hours. The aqueous layer was extracted 3 times with ether (200 ml). The organic layers were combined, washed successively with water, a saturated aqueous sodium hydrogencarbonate solution and saturated brine (100 ml each), and dried over anhydrous magnesium sulfate. The drying agent was filtered off, the filtrate was concentrated under reduced pressure, and the obtained residue was distilled under reduced pressure (450 pa, 155-160° C.) to give 2-(2-methoxy-5-methylphenyl)octanal (64.5 g, 74.6%/) as a colorless oil.

reactant | 1-(2-Methoxy-5-methylphenyl)heptan-1-one | 0.348 mol, 81.6 g | COC1=C(C=C(C=C1)C)C(CCCCCC)=O | C15H22O2
reactant | ethyl chloroacetate | 0.522 mol, 64 g | ClCC(=O)OCC | C4H7ClO2
reactant | Potassium t-butoxide | 0.522 mol, 58.6 g | CC(C)([O-])C.[K+]
reactant | ethyl chloroacetate | 0.261 mol, 32 g | ClCC(=O)OCC | C4H7ClO2
reactant | potassium t-butoxide | 0.261 mol, 29.3 g | CC(C)([O-])C.[K+]
reactant | sodium | 0.567 mol, 13.1 g | [Na] | Na
solvent | Water | 17 ml | O | H2O
solvent | ethanol | 260 ml | C(C)O | C2H6O
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 2-(2-methoxy-5-methylphenyl)octanal | 64.5 g, 74.6% | COC1=C(C=C(C=C1)C)C(C=O)CCCCCC | C16H24O2
